US07160888B2
An intermediate compound, 1-Methyl-5-piperazin-1-yl-1,2,3,4-tetrahydro-quinoline, was produced as follows: To a stirred solution of 4-(1,2,3,4-tetrahydro-quinolin-5-yl)-piperazine-1-carboxylic acid tert-butyl ester (1.30 g, 4.10 mmol) in THF-DMF (1:1, 40 mL) was added NaH (60% dispersion in oil, 0.58 g, 24.16 mmol) at room temperature. The resulting mixture was stirred at room temperature for 1 h, cooled to 0° C. and iodomethane (1.75 g, 12.30 mmol) was added. The mixture was stirred at room temperature overnight and diluted with ethyl acetate. Water was added and the organic layer was separated. The aqueous layer was extracted with ethyl acetate. The combined organic extracts were washed with water, brine, dried (Na2SO4) and the solvent was removed in vacuo. The residue was purified on a silica gel column using hexanes-ethyl acetate (3:1) as eluent to give 4-(1-methyl-1,2,3,4-tetrahydro-quinolin-5-yl)-piperazine-1-carboxylic acid tert-butyl ester (0.90 g, 66%) as a liquid. 1H NMR (400 MHz, CDCl3): δ 7.10 (t, 1H), 6.40 (m, 2H), 3.50 (br s , 4H), 3.25 (t, 2H), 2.90 (s, 3H), 2.80 (br s, 4H), 2.75 (t, 2H), 1.90 (t, 3H), 1.45 (s, 9H).

reactant | 4-(1,2,3,4-tetrahydro-quinolin-5-yl)-piperazine-1-carboxylic acid tert-butyl ester | 4.10 mmol, 1.30 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2CCCNC2=CC=C1 | C18H27N3O2
reactant | NaH | 24.16 mmol, 0.58 g | [H-].[Na+]
reactant | iodomethane | 12.30 mmol, 1.75 g | IC | CH3I
reactant | Water | O | H2O
solvent | THF DMF | 40 mL | C1CCOC1.CN(C)C=O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(1-methyl-1,2,3,4-tetrahydro-quinolin-5-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.90 g, 66% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2CCCN(C2=CC=C1)C | C19H29N3O2
